Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Fevers, Pancytopenia
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Pt is a ___ y/o F with PMHx of HTN, HLD, as well as Lyme disease 
___ year ago, who presented with ___ weeks of low grade fevers, 
fatigue, and LOA, with lab work showing new pancytopenia as well 
as parasitemia. 

She initially presented to her PCP's office with these symptoms 
1 week ago. At that time, there was concern that her symptoms 
could be related to Lyme disease, so she was started on 
doxycycline. She declined lab work at that time.

She then presented back to her PCPs office yesterday with 
ongoing symptoms.  At that time she was given a prescription for 
amoxicillin.  Lab work was also checked which is notable for new 
pancytopenia as well as parasitemia.  After seeing his lab work 
she presented to the emergency room for evaluation.

In addition to these symptoms the patient does also report some 
mild left upper quadrant pain.  She reports that this pain is 
generally present when she lays on her side and is not present 
when she lays on her back.  The pain does not occur with 
palpation of the abdomen. She also endorses some mild heart 
palpitations during this time as well as diarrhea which she 
attributes to the antibiotics.  
 

ED Course:
Initial VS: 98.8 93 152/69 18 100% RA Pain ___
Labs significant for pancytopenia, 0.4% parasitemia on parasite 
smear. Haptoglobin <10, elevated LDH.
Imaging: none
Meds given:
___ 03:37 PO Azithromycin 500 mg ___  
___ 03:37 PO Doxycycline Hyclate 100 mg ___  
___ 05:05 PO/NG Atovaquone Suspension 750 mg ___ 
 
___ 06:32 PO Acetaminophen 650 mg ___  
VS prior to transfer: 99.9 86 131/64 16 96% RA 

ROS: As above.  Denies headache, visual changes, sinus 
congestion, chest pain, shortness of breath, cough, nausea, 
vomiting, urinary symptoms, skin rash, joint pains.  The 
remainder of the ROS was negative.

 
Past Medical History:
HYPERLIPIDEMIA
HYPERTENSION 
HEART MURMUR 
LEFT FOOT FRACTURE
BLE VERICOSITY
ENDOMETRIAL THICKENING
SUBPLEURAL RIGHT MIDDLE LOBE NODULE
SHOULDER PAIN
TOBACCO ABUSE   
  
 
Social History:
___
Family History:
History of lung cancer in her father as well as possible colon 
or liver cancer in her brother.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS -98.1PO 133 / 71 79 18 98 RA 
GEN - Alert, NAD
HEENT - mild droop/NLFF on the right at rest; however, CN ___ 
otherwise intact; NC/AT
NECK - Supple, no cervical LAD noted
CV - RRR, ___ systolic murmur throughout
RESP - CTA B, breathing comfortably
ABD - S/NT/ND, BS present
EXT - No ___ edema or calf tenderness
SKIN - few scattered petechiae on the B shins, BLE's wwp, no ___ 
edema or calf tenderness
NEURO - CN ___ intact; ___ strength in the all 4 extremities; 
able to ___ forwards and backwards; able to ___ but missed 
___ when going backwards; had good immediate and 3 minute 
recall of 3 objects
PSYCH - calm, appropriate

DISCHARGE PHYSICAL EXAM:
Vital Signs: Tm98.3 145/81 73
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, ___ systolic murmur at the base
PULM: CTA B, breathing comfortably 
GI: S/NT/ND, BS present
EXT: no ___ edema or calf tenderness
SKIN: stable scant petechiae on the anterior BLEs
NEURO: Non-focal

 
Pertinent Results:
ADMISSION LABS:
___ 09:03AM BLOOD WBC-3.0*# RBC-3.20* Hgb-9.5* Hct-30.0* 
MCV-94 MCH-29.7 MCHC-31.7* RDW-14.3 RDWSD-49.6* Plt Ct-44*#
___ 03:00AM BLOOD Neuts-56 Bands-4 Lymphs-15* Monos-25* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-2.28 AbsLymp-0.57* 
AbsMono-0.95* AbsEos-0.00* AbsBaso-0.00*
___ 03:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 03:00AM BLOOD ___ PTT-27.4 ___
___ 03:00AM BLOOD ___
___ 09:03AM BLOOD Parst S-POS*
___ 03:00AM BLOOD Ret Aut-1.6 Abs Ret-0.05
___ 09:03AM BLOOD UreaN-17 Creat-0.9 Na-139 K-4.1 Cl-104 
HCO3-20* AnGap-19
___ 09:03AM BLOOD ALT-36 AST-33 AlkPhos-64 TotBili-0.6
___ 10:10AM BLOOD Calcium-8.4 Phos-2.0* Mg-1.8
___ 03:00AM BLOOD Hapto-<10*
___ 09:03AM BLOOD CRP-68.7*
___ 08:05AM BLOOD WBC-2.9* RBC-2.95* Hgb-8.7* Hct-27.3* 
MCV-93 MCH-29.5 MCHC-31.9* RDW-14.3 RDWSD-48.9* Plt Ct-75*
___ 08:05AM BLOOD Parst S-POSITIVE*
___ 08:05AM BLOOD LD(LDH)-406*
___ 08:05AM BLOOD Hapto-<10*
 
Brief Hospital Course:
___ y/o ___ F with h/o Lyme disease ___ year ago, here 
with several weeks of fevers. Found to have pancytopenia and 
parasitemia. 

# PARASITEMIA / PRESUMED BABESIOSIS: ID evaluated patient and 
felt that presentation was most consistent with bsbesia.  She 
was placed on atovaquone, azithromycin.  Also place on 
doxycycline for possible Anaplasma co-infection. Serologies 
showed were pending prior to discharge.  She will take 
azitro/atovaquone for a total of 10d and doxy for 14d.  
Parasitemia on day of discharge was <0.1% (one parasite in total 
smear).  CBC essentially stable with slight improvement in plt 
count before discharge.  

# PANCYTOPENIA: Likely related to above infection. She was 
monitored and will have outpatient recheck.  
# HYPERTENSION: Continued losartan. HCTZ  (determine if hCTZ 
should be held at next visit with PCP)
# HYPERLIPIDEMAI: Continue on her statin.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amoxicillin 500 mg PO Q8H 
2. Losartan Potassium 50 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Parasite Infection, Presumed Babesia
Pancytopenia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You presented to the hospital with fevers and fatigue. You were 
found to have a parasitic infection, likely babesia. You were 
treated with antibiotics, which you will continue for a total of 
10 days for the babesia including doses given in hospital.  You 
will take another antibiotic doxycycline for a longer period of 
time for possible lyme/anaplasma total of 14 days including 
doses given in hospital

Because of the infection, your blood counts decreased. You were 
monitored until they were increasing again.

It was a pleasure taking part in your medical care.
 
Followup Instructions:
___